US06348474B1
To a solution of phenol (12 mg, 0.13 mmol) in N,N-dimethylformamide (0.5 ml) was added sodium hydride (60% in mineral oil, 5.2 mg) under ice-cooling. Thirty minutes later, a solution of 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-((methanesulfonyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (68 mg, 0.12 mmol) in N,N-dimethylformamide (1 ml) was dropwise added, which was followed by stirring at room temperature for 3 hr. The reaction mixture was cooled with ice and water was added. Its pH was adjusted to 4 by dropwise addition of 1N hydrochloric acid. The resulting product was extracted with ethyl acetate, washed three times with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel thin layer chromatography (eluent: chloroform/methanol=20/1) and crystallized from ethyl acetate to give 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-((phenyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (30 mg) as colorless crystals.

reactant | phenol | 0.13 mmol, 12 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 5.2 mg | [H-].[Na+]
reactant | 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-((methanesulfonyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 0.12 mmol, 68 mg | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)COS(=O)(=O)C)Cl | C23H21ClN4O6S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-((phenyloxy)methyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 30 mg | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)COC2=CC=CC=C2)Cl | C28H23ClN4O4S
